US05051413
1.5 g of E-2-amino-5-phosphono-3-pentenoic acid are suspended in 30 ml of n-propanol and the suspension is saturated with hydrogen chloride gas for 21/2 hours at 50°. After concentration, the residue is dissolved in 15 ml of n-propanol, 15 ml of propylene oxide are added and the precipitate is filtered off. Recrystallisation from water/acetone 1:3 yields E-2-amino-5-phosphono-3-pentenoic acid propyl ester, m.p. 161°-162°.

reactant | E-2-amino-5-phosphono-3-pentenoic acid | 1.5 g | NC(C(=O)O)\C=C\CP(=O)(O)O | C5H10NO5P
reactant | hydrogen chloride | Cl | ClH
reactant | n-propanol | 30 ml | C(CC)O | C3H8O
product | E-2-amino-5-phosphono-3-pentenoic acid propyl ester | C(CC)OC(C(\C=C\CP(=O)(O)O)N)=O | C8H16NO5P
